US04994460
1-(4-Fluoronaphth-1-yl)-4-[4-(5-fluoro-2-pyrimidinyl)-1-piperazinyl]butanon
A mixture of Ethyl 2-(4-fluorobenzoyl)-4-(4-(5-fluoro-2-pyrimidinyl)piperazin-1-yl)butanoate (2.95 g, 6.3 mmol) in aqueous HCl (65 mL, 1N) was refluxed for 2 h, cooled at 23° C. and basified, first with aqueous NaOH solution (30 mL, 2N) and then with saturated NaHCO3 solution until pH=9. The aqueous solution was extracted with CH2Cl2 (3×150 mL). Organic extracts were combined, washed with water (30 mL) and brine, dried (MgSO4) and concentrated to dryness. The crude material was chromatographed on silica gel using a mixture of 50% CH2Cl2 in EtOAc. Appropriate fractions were combined and solvent evaporated under reduced pressure leaving 2.3 g (92%), mp 119°-120° C. Recrystallization from EtOH afforded analytical sample; mp 120°-1° C.; 1H NMR (CDCl3, 200 MHz) δ: 2.03 (t, J=7.0 Hz, CH2CH2CH2, 2H), 2.4-2.6 (m, 6H), 3H (t, J=7.0, CH2CO, 2H), 3.8-3.9 (m, 4H), 7.1-7.2 (m, 1H), 7.5-7.8 (m, 2H), 7.9-8.0 m, 1H), 8.18 (s), 8.1-8.3 (m, 3H), 8.7-8.8 (m, 1H); IR (KBr) ν: 1681, 1630, 1611, 1600, 1575, 1555, 1494 cm-1 ; UV (CH3CN) λ: 226 (ε 40377), 298 (ε 7498);

reactant | Ethyl 2-(4-fluorobenzoyl)-4-(4-(5-fluoro-2-pyrimidinyl)piperazin-1-yl)butanoate | 6.3 mmol, 2.95 g | FC1=CC=C(C(=O)C(C(=O)OCC)CCN2CCN(CC2)C2=NC=C(C=N2)F)C=C1 | C21H24F2N4O3
reactant | NaOH | 2N, 30 mL | [OH-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 1N, 65 mL | Cl | ClH
product | 1-(4-Fluoronaphth-1-yl)-4-[4-(5-fluoro-2-pyrimidinyl)-1-piperazinyl]butanon | FC1=CC=C(C2=CC=CC=C12)CC(CCN1CCN(CC1)C1=NC=C(C=N1)F)=O | C22H22F2N4O
